US07192943B2
To a suspension of lithium aluminium hydride (3.78 g) in tetrahydrofuran (150 ml) was added 5-amino-1-methyl-N-[2-(tritylamino)ethyl]-1H-pyrazole-4-carboxamide (10.64 g) at room temperature. The mixture was stirred under reflux for 18 hours. After cooling on an ice bath, to the reaction mixture were added sodium fluoride (20 g) and aqueous tetrahydrofuran solution (10 ml). The insoluble materials were removed by filtration. The resulting filtrate was concentrated in vacuo, and the residue was dissolved in chloroform. The solution was washed with 10% aqueous sodium hydroxide solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The oily residue was triturated with ethyl acetate and dried in vacuo to give N-[(5-amino-1-methyl-1H-pyrazol-4-yl)methyl]-N′-tritylethane-1,2-diamine (3.2 g) as a solid.

reactant | lithium aluminium hydride | 3.78 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-amino-1-methyl-N-[2-(tritylamino)ethyl]-1H-pyrazole-4-carboxamide | 10.64 g | NC1=C(C=NN1C)C(=O)NCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27N5O
reactant | sodium fluoride | 20 g | [F-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[(5-amino-1-methyl-1H-pyrazol-4-yl)methyl]-N′-tritylethane-1,2-diamine | 3.2 g | NC1=C(C=NN1C)CNCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H29N5
